US08476457B2
To a solution of 1-isopropyl-4-(5-methyl-pyridin-2-yl)-1H-indazole-6-carboxylic acid (0.24 g, 0.814 mmol) in acetonitril was added C-(5-methyl-pyrazin-2-yl)-methylamine (0.12 g, 0.976 mmol), EDCI (0.23 g, 1.22 mmol), HOBt (0.16 g, 1.22 mmol), and NMM (0.45 mL, 4.07 mmol). The reaction mixture was stirred at room temperature overnight, then partitioned between water and ethyl acetate. The organic layer was separated, dried over MgSO4, filtered and concentrated under reduced pressure. Purification of the residue by column chromatography gave 0.144 g (44%) of 1-isopropyl-4-(5-methyl-pyridin-2-yl)-1H-indazole-6-carboxylic acid (5-methyl-pyrazin-2-ylmethyl)-amide MS (M+H)=401.

reactant | 1-isopropyl-4-(5-methyl-pyridin-2-yl)-1H-indazole-6-carboxylic acid | 0.814 mmol, 0.24 g | C(C)(C)N1N=CC2=C(C=C(C=C12)C(=O)O)C1=NC=C(C=C1)C | C17H17N3O2
reactant | C-(5-methyl-pyrazin-2-yl)-methylamine | 0.976 mmol, 0.12 g | CC=1N=CC(=NC1)CN | C6H9N3
reactant | EDCI | 1.22 mmol, 0.23 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.22 mmol, 0.16 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 4.07 mmol, 0.45 mL | CN1CCOCC1 | C5H11NO
solvent | acetonitril | C(C)#N | C2H3N
product | 1-isopropyl-4-(5-methyl-pyridin-2-yl)-1H-indazole-6-carboxylic acid (5-methyl-pyrazin-2-ylmethyl)-amide | 0.144 g, 44% | CC=1N=CC(=NC1)CNC(=O)C1=CC(=C2C=NN(C2=C1)C(C)C)C1=NC=C(C=C1)C | C23H24N6O
